US06586475B1
2,2,2-Trifluoro-N-[2-(methylamino)ethyl]acetamide
To a solution of ethyl trifluoroacetate (10 ml) in diethyl ether (20 ml) in an ice bath was added dropwise N-methylethylenediamine (7.4ml) for one hr. After addition, the reaction mixture was warmed to room temperature and stirred for 2 hr. Removal of ethyl ether from the reaction mixture gave the titled compound (14 g).

reactant | ethyl trifluoroacetate | 10 ml | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | N-methylethylenediamine | 7.4ml | CNCCN | C3H10N2
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | 2,2,2-Trifluoro-N-[2-(methylamino)ethyl]acetamide | 14 g | FC(C(=O)NCCNC)(F)F | C5H9F3N2O
